US06777420B2
Synthesis of 3-(4-iodobutyl)-6-(3-ethyl-4-methylanilino)uracil, Compound e (IB-EMAU)
Trimethylsilyl iodide (19.4 g, 47 mmol) was added to a stirred solution of 3-(4-hydroxybutyl)-6-(3-ethyl-4-methylanilino)uracil (7.7 g, 24.3 mmol) in dry chloroform (300 ml). The reaction mixture was stirred at reflux for 12 h, until disappearance of starting material (TLC). A saturated solution of aqueous sodium sulfite was added to decolorize the brown-purple solution. After separation of layers, the aqueous solution was extracted with chloroform, and the combined organic extracts were reduced to about one fourth volume. The solid was filtered and washed with water and acetone to give 9.9 g (95%) of IB-EMAU.

reactant | Trimethylsilyl iodide | 47 mmol, 19.4 g | C[Si](C)(C)I | C3H9ISi
reactant | 3-(4-hydroxybutyl)-6-(3-ethyl-4-methylanilino)uracil | 24.3 mmol, 7.7 g | OCCCCN1C(NC(=CC1=O)NC1=CC(=C(C=C1)C)CC)=O | C17H23N3O3
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-(4-iodobutyl)-6-(3-ethyl-4-methylanilino)uracil | ICCCCN1C(NC(=CC1=O)NC1=CC(=C(C=C1)C)CC)=O | C17H22IN3O2
